US04657916
Preparation of 4-benzyloxy-2-(10-formyldecyl) quinoline-N-oxide
In this example, 5 m moles of 4-benzyloxy-2-(11-hydroxyundecyl) quinoline-N-oxide is dissolved in dichloromethane, and 15 m moles of pyridinium chlorochromate is added thereto. Then, the mixture is stirred at room temperature for 2.5 hours. The reaction solution is washed with water and dried over anhydrous sodium sulfate, and the solvent is removed therefrom by distillation. The residue is purified by silica gel column procedure, whereby the captioned compound is obtained as a colorless oily substance (yield: 79.2%).

reactant | 4-benzyloxy-2-(11-hydroxyundecyl) quinoline-N-oxide | C(C1=CC=CC=C1)OC1=CC(=[N+](C2=CC=CC=C12)[O-])CCCCCCCCCCCO | C27H35NO3
reactant | pyridinium chlorochromate | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-benzyloxy-2-(10-formyldecyl) quinoline-N-oxide | yield: 79.2% | C(C1=CC=CC=C1)OC1=CC(=[N+](C2=CC=CC=C12)[O-])CCCCCCCCCCC=O | C27H33NO3
